US04008219
20 ml of anhydrous toluene was added to 1 g of 2,3,4,5-tetrahydro-1,6-methano-1H-4-benzazonin-7(6H)-one and 2 g of triethylamine, and 1 g of phenylacetyl chloride was added dropwise to the mixture over a period of 30 minutes under ice cooling and agitation. After completion of the dropwise addition, the mixture was agitated for 1 hour at room temperature. The reaction mixture liquid was washed twice with 50 ml of water and the toluene layer was dried with anhydrous sodium sulfate and filtered. Toluene was removed from the filtrate by distillation under reduced pressure, and the residue was dissolved in 20 ml of anhydrous dioxane and the solution was heated and refluxed for 6 hours together with 0.3 g of lithium aluminum hydride. Then, excess lithium aluminum hydride was decomposed with drops of ethyl acetate, and 50 ml of saturated aqueous solution of Rochelle salt was added and the mixture was shaken. The resulting solution was extracted with ether, and the ether extract was subjected to distillation to remove ether therefrom. The residue was subjected to vacuum distillation to obtain 0.9 g of a fraction of 4-phenethyl-2,3,4,5,6,7-hexahydro-1,6-methano-1H-4-benzazonin-7ol boiling at 148° to 152° C. (bath temperature) under 1 mmHg. The product was a light-yellow oil.

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2,3,4,5-tetrahydro-1,6-methano-1H-4-benzazonin-7(6H)-one | 1 g | C12CCNCC(C(C3=C1C=CC=C3)=O)C2 | C13H15NO
reactant | phenylacetyl chloride | 1 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
product | 4-phenethyl-2,3,4,5,6,7-hexahydro-1,6-methano-1H-4-benzazonin-7ol | C(CC1=CC=CC=C1)N1CC2C(C3=C(C(CC1)C2)C=CC=C3)O | C21H25NO
